US06313122B1
A. N-(3-Cyanobenzoyl)-2-nitroaniline
To a mixture of 3-cyanobenzoyl chloride (10.0 g, 60.4 mmol), triethylamine (12.6 mL, 90.6 mmol), and methylene chloride (120 mL) was added 2-nitroaniline (8.30 g, 60.4 mmol) followed by 4-(dimethylamino)pyridine (738 mg, 6.04 mmol). After stirring for 24 h, the reaction mixture was concentrated in vacuo. Chromatography (silica gel, 30% ethyl acetate/70% hexanes to 50% ethyl acetate/50% hexanes) yielded 17.1 g (99%) of the title compound as a yellow solid.

reactant | 3-cyanobenzoyl chloride | 60.4 mmol, 10.0 g | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | triethylamine | 90.6 mmol, 12.6 mL | C(C)N(CC)CC | C6H15N
reactant | 2-nitroaniline | 60.4 mmol, 8.30 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
catalyst | 4-(dimethylamino)pyridine | 6.04 mmol, 738 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Cyanobenzoyl)-2-nitroaniline | 17.1 g, 99% | C(#N)C=1C=C(C(=O)NC2=C(C=CC=C2)[N+](=O)[O-])C=CC1 | C14H9N3O3
